US09085540B2
To a mixture of 5-(3-aminophenoxy)-6-ethyl-3-({4-[(3S)-3-(hydroxymethyl)-4-methylpiperazin-1-yl]phenyl}amino)pyrazine-2-carboxamide (210 mg), diisopropylethylamine (301 μL), and dichloromethane (6.3 mL) was added acryloyl chloride (107 μL) under ice-cooling, followed by stirring for 2 hours. To the reactant were added water and chloroform, followed by liquid separation. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=95:5) to obtain {(2S)-4-[4-({6-[3-(acryloylamino)phenoxy]-3-carbamoyl-5-ethylpyrazin-2-yl}amino)phenyl]-1-methylpiperazin-2-yl}methyl acrylate (228 mg) as an amorphous substance.

reactant | 5-(3-aminophenoxy)-6-ethyl-3-({4-[(3S)-3-(hydroxymethyl)-4-methylpiperazin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 210 mg | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=CC=C(C=C2)N2C[C@H](N(CC2)C)CO)C=CC1 | C25H31N7O3
reactant | diisopropylethylamine | 301 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 6.3 mL | ClCCl | CH2Cl2
reactant | acryloyl chloride | 107 μL | C(C=C)(=O)Cl | C3H3ClO
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | {(2S)-4-[4-({6-[3-(acryloylamino)phenoxy]-3-carbamoyl-5-ethylpyrazin-2-yl}amino)phenyl]-1-methylpiperazin-2-yl}methyl acrylate | 228 mg | C(C=C)(=O)OC[C@H]1N(CCN(C1)C1=CC=C(C=C1)NC1=NC(=C(N=C1C(N)=O)CC)OC1=CC(=CC=C1)NC(C=C)=O)C | C31H35N7O5
